US07250446B2
(4-Thiophenyl)-naphth-1-yl-ketone (1: R=CO, R1=H, R2=H, R3=SH):
A mixture of 1-naphthoic acid (8 g, 46.46 mmol), thiophenol (8 ml, 78.05 mmol) and polyphosphoric acid (80 g) was heated for 12 hours on water bath at 80° C. Reaction mixture was poured onto ice water and extracted with ethylacetate. The organic layer was washed with water, dried over anhydrous sodium sulfate and concentrated to give oil, which was crystallized from methanol to give the desired compound.

reactant | 1-naphthoic acid | 46.46 mmol, 8 g | C1(=CC=CC2=CC=CC=C12)C(=O)O | C11H8O2
reactant | thiophenol | 78.05 mmol, 8 ml | C1(=CC=CC=C1)S | C6H6S
product | (4-Thiophenyl)-naphth-1-yl-ketone | S1C=CC(=C1)C(=O)C1=CC=CC2=CC=CC=C12 | C15H10OS
